US05175341
(4) Benzhydryl D-mandelate
To a solution of 25.0 g (164 mmol) of D-mandelic acid in 200 ml of ethyl acetate was added 38.9 g (164 mmol) of diphenyldiazomethane under stirring at room temperature. The completeness of reaction was monitored by TLC and the reaction mixture was concentrated. The residue was recrystallized from etherpetroleum ether to give 47.7 g of the aimed product D-5 in 91% yield.

reactant | D-mandelic acid | 164 mmol, 25.0 g | C([C@H](O)C1=CC=CC=C1)(=O)O | C8H8O3
reactant | diphenyldiazomethane | 164 mmol, 38.9 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Benzhydryl D-mandelate | 47.7 g, 91% yield | C([C@H](O)C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H18O3
